US07319104B2
2-[4-(2-{1,3-Benzoxazol-2-yl[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 2-chlorobenzoxazole.

reactant | methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | FC(C1=C(CNCCC2=CC=C(OC(C(=O)OC)(C)C)C=C2)C=CC(=C1)C(F)(F)F)(F)F | C22H23F6NO3
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
product | 2-[4-(2-{1,3-Benzoxazol-2-yl[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)CC2=C(C=C(C=C2)C(F)(F)F)C(F)(F)F | C28H24F6N2O4
